### ISSUE TITLE
BCIKS20 `large_agreement_set_on_curve_implies_correlated_agreement` is false as stated (vacuous `∃ v`, `rho` unlinked to `V`)

### ISSUE THREAD

**Issue by aryaethn** [Verified-zkEVM/ZKLib#588]
**File:** `ArkLib/Data/CodingTheory/ProximityGap/BCIKS20/Curves.lean`
(`theorem large_agreement_set_on_curve_implies_correlated_agreement`, currently ~L56–L69)

While studying the BCIKS20 Section-6 curve results I believe the statement of
`large_agreement_set_on_curve_implies_correlated_agreement` has two problems: one of its conclusions
is vacuous, and the remaining content is false as written. Both observations are machine-checked
against current `main` (`b321c7ef`, Lean `v4.30.0`). The sibling `…_correlated_agreement'` (Johnson
regime, ~L78–L92) looks correctly shaped and is the natural template for a fix. Filing for
coordination before anyone invests in a proof of the current statement.

## The statement

```lean
theorem large_agreement_set_on_curve_implies_correlated_agreement {l : ℕ}
    {rho : ℚ≥0} {δ : ℚ≥0} {V : Finset (Fin n → F)}
    (hδ : δ ≤ (1 - rho) / 2)
    {u : Fin l → Fin n → F}
    (hS : n * l < (coeffs_of_close_proximity_curve (F := F) δ u V).card) :
    coeffs_of_close_proximity_curve (F := F) δ u V = Finset.univ ∧
      ∃ v : Fin l → Fin n → F,
        ∀ z,
          δᵣ(Curve.polynomialCurveEval (F := F) (A := F) u z,
            Curve.polynomialCurveEval (F := F) (A := F) v z) ≤ δ ∧
          ({ x : Fin n | ∃ i, u i x ≠ v i x } : Finset _).card ≤ δ * n := sorry
```

## Problem 1 — the `∃ v …` conjunct is vacuous

`v := u` discharges it with **no hypotheses**: `δᵣ(curve u z, curve u z) = 0 ≤ δ`
(`relHammingDist u u = hammingDist u u / _ = 0`), and `{x | ∃ i, u i x ≠ u i x} = ∅`, whose card is
`0 ≤ δ * n`. So the existential carries no information, and the only real content of the conclusion is
`coeffs_of_close_proximity_curve … = Finset.univ`. The following compiles in the file's section
context (`lake env lean`, exit 0):

```lean
example {l : ℕ} {δ : ℚ≥0} {u : Fin l → Fin n → F} :
    ∃ v : Fin l → Fin n → F,
      ∀ z,
        δᵣ(Curve.polynomialCurveEval (F := F) (A := F) u z,
          Curve.polynomialCurveEval (F := F) (A := F) v z) ≤ δ ∧
        ({ x : Fin n | ∃ i, u i x ≠ v i x } : Finset _).card ≤ δ * n := by
  refine ⟨u, fun z => ⟨?_, ?_⟩⟩
  · simp [relHammingDist]
  · simp
```

(The intended conclusion — cf. the primed sibling — is presumably that there are *codewords* `v`
from `V` with large agreement, e.g. `∀ i, v i ∈ V` and a `(1 - δ) * n ≤ |agree|` bound.)

## Problem 2 — the remaining content (`S = Finset.univ`) is false as stated

`rho` occurs only in `hδ` and is otherwise unconstrained, so the theorem is equivalent to its
`rho := 0` instance, i.e. `∀ δ ≤ 1/2, …`. In particular `δ` is never tied to the minimum distance of
`V` (no `rate V = rho`, no `2 * δ * n < Code.dist V`), which the unique-decoding argument needs.

**Counterexample.** Take `F = ZMod 5`, `n = 1`, `l = 2`, `rho = 0`, `δ = 1/2` (so `hδ : 1/2 ≤ 1/2`),
`u 0 = fun _ => 0`, `u 1 = fun _ => 1` (so `Curve.polynomialCurveEval u z = fun _ => z`), and
`V = {fun _ => 0, fun _ => 1, fun _ => 2}` (`|V| = 3`). Since `n = 1`, `δᵣ(·,·) ∈ {0,1}`, so
`δᵣ(curve z, V) ≤ 1/2 ⟺ curve z ∈ V ⟺ z ∈ {0,1,2}` (here `δᵣ(·, V)` is the min relative distance to
`V`). Hence `S := coeffs_of_close_proximity_curve δ u V = {0,1,2}`, and:

- `hS`: `n * l = 2 < 3 = |S|` ✓ (both hypotheses hold)
- conclusion: `S = Finset.univ`, i.e. `{0,1,2} = ZMod 5` ✗ (`3, 4 ∉ S`)

The threshold `n * l` and the bound on `δ` are both independent of `|F|` and of `V`'s distance, so any
`V` with `n * l < |V| < |F|` and an injective curve refutes `S = univ`; the `n = 1` instance is just
the minimal witness.

This is machine-checked: the script below compiles against current `main` and
`#print axioms lemma_is_false` reports only `[propext, Classical.choice, Quot.sound]` (no `sorry`,
no added `axiom`).

<details>
<summary>Full reproducible Lean script (drop into the <code>ArkLib/</code> package, <code>lake env lean</code>)</summary>

```lean
import ArkLib.Data.CodingTheory.ProximityGap.BCIKS20.Curves
import Mathlib.Algebra.Field.ZMod

open NNReal Finset Function
open scoped BigOperators
open Code ProximityGap

namespace BCIKS20CurvesCounterexample

instance : Fact (Nat.Prime 5) := ⟨by decide⟩

abbrev F := ZMod 5

/-- Curve coefficients: `u₀ ≡ 0`, `u₁ ≡ 1`, so `curve(z) = const z`. -/
def u : Fin 2 → Fin 1 → F := ![fun _ => 0, fun _ => 1]

/-- Three codewords. -/
def V : Finset (Fin 1 → F) := {fun _ => 0, fun _ => 1, fun _ => 2}

def δ : ℚ≥0 := 1/2

/-- Helper: the `ℚ≥0 → ENNReal` coercion of `1`. -/
lemma coe_qnn_one : ((1 : ℚ≥0) : ENNReal) = 1 := by
  rw [← ENNReal.coe_nnratCast]; norm_cast

/-- Helper: the `ℚ≥0 → ENNReal` coercion is monotone. -/
lemma coe_qnn_le {a b : ℚ≥0} (h : a ≤ b) : (a : ENNReal) ≤ (b : ENNReal) := by
  rw [← ENNReal.coe_nnratCast a, ← ENNReal.coe_nnratCast b]; exact_mod_cast h

lemma curve_eval (z : F) :
    Curve.polynomialCurveEval (F := F) (A := F) u z = (fun _ => z) := by
  funext x
  simp [Curve.polynomialCurveEval, Fin.sum_univ_two, u]

lemma mem_S_iff (z : F) :
    z ∈ coeffs_of_close_proximity_curve (F := F) δ u V ↔
      relDistFromCode (fun _ : Fin 1 => z) (V : Set (Fin 1 → F)) ≤ (δ : ENNReal) := by
  unfold coeffs_of_close_proximity_curve
  rw [Set.mem_toFinset, Set.mem_setOf_eq, curve_eval z]

/-- `hδ` is satisfiable. -/
lemma hδ_holds : δ ≤ (1 - (0:ℚ≥0)) / 2 := by norm_num [δ]

lemma mem_close (c : F) (hc : (fun _ => c) ∈ V) :
    c ∈ coeffs_of_close_proximity_curve (F := F) δ u V := by
  rw [mem_S_iff]
  calc relDistFromCode (fun _ : Fin 1 => c) (V : Set (Fin 1 → F))
      ≤ ((relHammingDist (fun _ : Fin 1 => c) (fun _ => c) : ℚ≥0) : ENNReal) :=
        relDistFromCode_le_relDist_to_mem _ _ (Finset.mem_coe.mpr hc)
    _ ≤ (δ : ENNReal) := by
        have h0 : relHammingDist (fun _ : Fin 1 => c) (fun _ => c) = 0 := by simp [relHammingDist]
        rw [h0]
        exact coe_qnn_le zero_le'

lemma card_ge : 3 ≤ (coeffs_of_close_proximity_curve (F := F) δ u V).card := by
  have h012 : ({0,1,2} : Finset F) ⊆ coeffs_of_close_proximity_curve (F := F) δ u V := by
    intro c hc
    fin_cases hc <;> · apply mem_close; decide
  calc (3 : ℕ) = ({0,1,2} : Finset F).card := by decide
    _ ≤ _ := Finset.card_le_card h012

/-- `hS` is satisfiable (`n * l = 1 * 2 = 2 < |S|`). -/
lemma hS_holds : (1 : ℕ) * 2 < (coeffs_of_close_proximity_curve (F := F) δ u V).card :=
  lt_of_lt_of_le (by norm_num) card_ge

lemma three_not_mem : (3 : F) ∉ coeffs_of_close_proximity_curve (F := F) δ u V := by
  rw [mem_S_iff]
  intro h
  have hlb : (1 : ENNReal) ≤ relDistFromCode (fun _ : Fin 1 => (3 : F)) (V : Set (Fin 1 → F)) := by
    unfold relDistFromCode
    apply le_sInf
    rintro d ⟨v, hv, hvd⟩
    have hv1 : relHammingDist (fun _ : Fin 1 => (3 : F)) v = 1 := by
      rw [Finset.mem_coe] at hv
      fin_cases hv <;>
      · rw [relHammingDist, show hammingDist (fun _ : Fin 1 => (3 : F)) _ = 1 from by decide]
        simp
    rw [hv1, coe_qnn_one] at hvd
    exact hvd
  have hlt : (δ : ENNReal) < 1 := by
    have hδr : (δ : ℝ≥0) < 1 := by unfold δ; norm_num
    calc (δ : ENNReal) = ((δ : ℝ≥0) : ENNReal) := rfl
      _ < 1 := by exact_mod_cast hδr
  exact absurd (le_trans hlb h) (not_le.mpr hlt)

/-- The conclusion `S = univ` fails. -/
lemma S_ne_univ : coeffs_of_close_proximity_curve (F := F) δ u V ≠ Finset.univ := by
  intro h
  exact three_not_mem (h ▸ Finset.mem_univ (3 : F))

/-- Both hypotheses (`hδ`, `hS`) hold for this instance, yet the conclusion
`coeffs_of_close_proximity_curve … = Finset.univ` fails. -/
theorem lemma_is_false :
    δ ≤ (1 - (0 : ℚ≥0)) / 2 ∧
    1 * 2 < (coeffs_of_close_proximity_curve (F := F) δ u V).card ∧
    coeffs_of_close_proximity_curve (F := F) δ u V ≠ Finset.univ :=
  ⟨hδ_holds, hS_holds, S_ne_univ⟩

end BCIKS20CurvesCounterexample
```

</details>

## Suggested fix

Mirror the (correctly-shaped) `…_correlated_agreement'`:

1. **Tie `rho`/`δ` to `V`** — either state the lemma about a concrete code (as the proven affine-line
   case `RS_correlatedAgreement_affineLines_uniqueDecodingRegime` does, directly over
   `ReedSolomon.code domain deg`), or add a hypothesis such as `(1 - rho) * n ≤ Code.dist (V : Set _)`
   / `rho = LinearCode.rate V`, so that `δ ≤ (1 - rho)/2` lands inside `V`'s unique-decoding radius.
2. **Replace the vacuous `∃ v`** with the intended correlated-agreement conclusion (codewords + a
   genuine agreement/closeness bound), as in the primed version (`∀ i, v i ∈ V`, etc.).

I'd be happy to follow up with a corrected statement + a proof of the unique-decoding regime if
that's useful — it's the regime already handled for affine lines, so the coordinate-wise
polynomial-curve argument should go through.

## Related (lower confidence, not part of this report's core claim)
- `…_correlated_agreement'` (~L78–L92) shares the `rho`-disconnected-from-`V` looseness (Problem 2),
  though its conclusion is correctly shaped (Problem 1 doesn't apply).
- `ListDecoding/Guruswami.lean` `modified_guruswami_has_a_solution` (Claim 5.4) has no hypotheses
  relating `m, n, k`; existence of a nonzero solution to the multiplicity system generally needs the
  degree bounds to dominate the constraints. Worth a separate look.

**Comment by aryaethn** [comment]
Hey everyone,

Any comments on this issue and its PR? Should I ping anyone specific?

**Comment by alexanderlhicks** [comment]
Thanks for the issue and PR! It took a while for me to get to it because it clashed with a long trip, sorry about that! Will take a look tomorrow.

**Comment by alexanderlhicks** [comment]
I'd actually just merged #640 and #639 before getting to this issue, which should resolve it. I went to check back on #606 later but the other two put together were a more substantial contribution.
The two remaining sorries in Curves.lean are still up for grabs in any case.

> ListDecoding/Guruswami.lean modified_guruswami_has_a_solution (Claim 5.4) has no hypotheses
> relating m, n, k; existence of a nonzero solution to the multiplicity system generally needs the
> degree bounds to dominate the constraints. Worth a separate look.

This does indeed seem worthy of king a look at, happy to see a PR come through.
